US07008950B1
(1-Benzyl-4-piperidyl)(2.5-dimethoxy-3,4,6-trimethylphenyl)methanol
n-Butyllithium (1.6 M, 19.5 mL, 31.2 mmol) was added to a solution of 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene (8.00 g, 30.87 mmol) in tetrahydrofuran (80 mL) at −78° C., and the mixture was stirred for 30 minutes at the same temperature. To the reaction mixture was added 1-benzyl-4-formylpiperidine (6.23 g, 30.65 mmol). The mixture was stirred for 30 minutes at room temperature, then poured into water, and extracted twice with ethyl acetate. The organic layers were combined, washed with an aqueous saturated sodium hydrogencarbonate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate) to obtain the title compound (6.17 g, yield 52%). This was oily.

reactant | n-Butyllithium | 31.2 mmol, 1.6 M, 19.5 mL | C(CCC)[Li]
reactant | 1-bromo-2,5-dimethoxy-3,4,6-trimethylbenzene | 30.87 mmol, 8.00 g | BrC1=C(C(=C(C(=C1C)OC)C)C)OC | C11H15BrO2
reactant | 1-benzyl-4-formylpiperidine | 30.65 mmol, 6.23 g | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | (1-Benzyl-4-piperidyl)(2.5-dimethoxy-3,4,6-trimethylphenyl)methanol | 6.17 g, yield 52% | C(C1=CC=CC=C1)N1CCC(CC1)C(O)C1=C(C(=C(C(=C1C)OC)C)C)OC | C24H33NO3
